### PR TITLE
[Merged by Bors] - feat: the equational criterion for vanishing

### PR DESCRIPTION
**Pull request by trivial1711**
Let $M$ and $N$ be modules over a commutative ring $R$. Following Lemma 8.16 of Altman and Kleiman's *A term of commutative algebra*, we prove some results about under what circumstances a sum of pure tensors $\sum_i m_i \otimes n_i \in M \otimes_R N$ vanishes. The *equational criterion for flatness* is not included in this pull request, but it is an easy consequence of these results.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean [hunk 1]
```diff
@@ -0,0 +1,256 @@
...
+open Classical DirectSum LinearMap Function Submodule
+open scoped BigOperators
+
+namespace TensorProduct
+
+variable {ι : Type u} [Fintype ι] {m : ι → M} {n : ι → N}
+
+variable (m n) in
+/-- The proposition that the expression $\sum_i m_i \otimes n_i$ in $M \otimes N$
+*vanishes trivially*. That is, there exist a finite index type $\kappa$,
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:72]: Please add a pointer to the Stacks tag at the end of this docstring.

File: Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean [hunk 2]
```diff
@@ -0,0 +1,256 @@
...
+  have exact_ker_subtype : Exact (ker G).subtype G := G.exact_subtype_ker_map
+  -- Tensor the exact sequence with $N$.
+  have exact_rTensor_ker_subtype : Exact (rTensor N (ker G).subtype) (rTensor N G) :=
+    rTensor_exact N exact_ker_subtype G_surjective
+  /- We conclude that $\sum_i e_i \otimes n_i$ is in the range of
+    $\ker G \otimes N \to R^\iota \otimes N$. -/
+  have en_mem_range : en ∈ range (rTensor N (ker G).subtype) :=
+    exact_rTensor_ker_subtype.linearMap_ker_eq ▸ en_mem_ker
+  /- There is an element of in $\ker G \otimes N$ that maps to $\sum_i e_i \otimes n_i$.
+  Write it as a finite sum of pure tensors $\sum_j k_j \otimes y_j$. -/
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:128]: Where are the `y_j` in Lean?

File: Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean [hunk 3]
```diff
@@ -0,0 +1,256 @@
...
+  obtain ⟨kn, hkn⟩ := en_mem_range
+  obtain ⟨ma, rfl⟩ := exists_finset kn
+  use ↑↑ma, FinsetCoe.fintype ma
+  -- Let $a_{ij}$ be the coefficient of $e_i$ in $k_j$.
+  use fun i ⟨x, _⟩ ↦ (x.1 : ι →₀ R) i
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:133]: I don't see `a` in Lean, and I don't see `x` in the comments/TeX.

File: Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean [hunk 4]
```diff
@@ -0,0 +1,256 @@
...
+    (∀ i, n i = ∑ j, a i j • y j) ∧ ∀ j, ∑ i, a i j • m i = 0
+
+/-- **Equational criterion for vanishing**
+[A. Altman and S. Kleiman, *A term of commutative algebra* (Lemma 8.16)][altman2021term],
+backward direction.
+
+If the expression $\sum_i m_i \otimes n_i$ vanishes trivially, then it vanishes.
+That is, $\sum_i m_i \otimes n_i = 0$. -/
+theorem sum_tmul_eq_zero_of_vanishesTrivially (hmn : VanishesTrivially R m n) :
+    ∑ i, m i ⊗ₜ n i = (0 : M ⊗[R] N) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:90]: Should there be a variant of `VanishesTrivially` with support for `s : Finset ι`, so that you can consider `∑ i in s, m i ⊗ₜ n i`?
That might lead to an API that can be applied more flexibly in applications.

Comment (trivial1711) [reply Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:91]: I will try to just change the definition of `VanishesTrivially` to work with sums over a `Finset`, because I think it would be confusing to have two versions. This might take a while, though.

Comment (trivial1711) [reply Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:91]: I can't figure out how to do this without it being very painful. Also, the added flexibility is minimal. In some situations it can make using the results more cumbersome, because now the set `s` must be an argument of `VanishesTrivially`, and now the first condition of `VanishesTrivially` requires the additional hypothesis `i ∈ s`.

Comment (jcommelin) [reply Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:91]: Ok, thanks for trying!

File: Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean [hunk 5]
```diff
@@ -0,0 +1,263 @@
...
+open Classical DirectSum LinearMap Function Submodule
+open scoped BigOperators
+
+namespace TensorProduct
+
+variable {ι : Type u} [Fintype ι] {m : ι → M} {n : ι → N}
+
+variable (m n) in
+/-- The proposition that the expression $\sum_i m_i \otimes n_i$ in $M \otimes N$
+*vanishes trivially*. That is, there exist a finite index type $\kappa$,
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/Vanishing.lean:72]:
```suggestion
/-- An expression $\sum_i m_i \otimes n_i$ in $M \otimes N$
*vanishes trivially* if there exist a finite index type $\kappa$,
```

**Review by jcommelin — COMMENTED** [review]
LGTM, modulo one suggestion.

bors d+
